US09315438B2
(4) Preparation of 4-(2-chloro-5-iodobenzyl)phenol
1-chloro-4-iodo-2-(4-methoxybenzyl)benzene (10.0 g, 27.9 mmol) was dissolved in methylene chloride (150 mL). To the resulting mixture was added dropwise boron tribromide (21 g, 83.7 mmol) under cooling in an ice-water bath. After the completion of dropwise addition, the mixture was warmed up to room temperature, and stirred for 3 hr. The mixture was quenched with a saturated sodium bicarbonate solution, was separated into an aqueous phase and an organic phase. The aqueous phase was extracted with methylene chloride (150 mL×2). The organic phases were combined, washed with a saturated sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under a reduced pressure. The resulting crude product was purified with a silica-gel column chromatography (ethyl acetate:petroleum ether=0-1:20) to produce 8.5 g of a product in a yield of 88%.

reactant | 1-chloro-4-iodo-2-(4-methoxybenzyl)benzene | 27.9 mmol, 10.0 g | ClC1=C(C=C(C=C1)I)CC1=CC=C(C=C1)OC | C14H12ClIO
reactant | boron tribromide | 83.7 mmol, 21 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-chloro-5-iodobenzyl)phenol | 8.5 g, yield of 88% | ClC1=C(CC2=CC=C(C=C2)O)C=C(C=C1)I | C13H10ClIO
